US07781454B2
Step 2: 3-(3-bromo-5-chlorophenoxy)-4-methylpyridin-2-amine
To a suspension of 3-(3-bromo-5-chlorophenoxy)-4-methylpyridine-2-carboxylic acid (2 g, 5.84 mmol) in THF (12 mL) was added TEA (1.627 mL, 11.68 mmol), pyridine (944 ul, 11.68 mmol), t-butanol (2.79 mL, 29.2 mmol) and diphenylphosphoryl azide (1.89 mL, 8.76 mmol). The resulting mixture was heated to 65° C. for 35 minutes, after which the mixture was diluted with CH2Cl2 (2×100 mL) and washed with water (100 mL). The combined organic extracts were concentrated in vacuo, and the resulting residue was dissolved in TFA (20 mL) and allowed to stand for 15 minutes. After this time, the solvent was removed in vacuo and the residue was partitioned between saturated aqueous NaHCO3 (50 mL) and CH2Cl2 (100 mL). The organic extract was concentrated on the rotary evaporator and the residue was purified using a RediSep column (330 g) eluting with a gradient of 0-30% EtOAc/CH2Cl2 to give the title compound. LRMS (M+1)=314.9.

reactant | 3-(3-bromo-5-chlorophenoxy)-4-methylpyridine-2-carboxylic acid | 5.84 mmol, 2 g | BrC=1C=C(OC=2C(=NC=CC2C)C(=O)O)C=C(C1)Cl | C13H9BrClNO3
reactant | pyridine | 11.68 mmol, 944 ul | N1=CC=CC=C1 | C5H5N
reactant | t-butanol | 29.2 mmol, 2.79 mL | C(C)(C)(C)O | C4H10O
reactant | diphenylphosphoryl azide | 8.76 mmol, 1.89 mL | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
solvent | THF | 12 mL | C1CCOC1 | C4H8O
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | 3-(3-bromo-5-chlorophenoxy)-4-methylpyridin-2-amine | BrC=1C=C(OC=2C(=NC=CC2C)N)C=C(C1)Cl | C12H10BrClN2O
